US06184225B2
A solution of 7-benzyloxy-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxyquinazoline (700 mg, 1.4 mmol) in DMF (10 ml), methanol (10 ml) and trichloromethane (10 ml) containing 10% palladium-on-charcoal (100 mg) was stirred under 1 atmosphere of hydrogen for 1 hour. After filtration and evaporation of the solvent, the residue was triturated with ether, filtered and dried under vacuum to give 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline (570 mg, 98%).

reactant | 7-benzyloxy-4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-6-methoxyquinazoline | 1.4 mmol, 700 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C(=C1)OC(=O)OC)C)F)OC | C25H22FN3O5
reactant | hydrogen | [H][H] | H2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | methanol | 10 ml | CO | CH4O
solvent | trichloromethane | 10 ml | ClC(Cl)Cl | CHCl3
catalyst | palladium-on-charcoal | 100 mg | [Pd] | Pd
product | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline | 570 mg, 98% | FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C(C(=C1)C)OC(=O)OC | C18H16FN3O5
